US07179941B2
c) 5-Nitro-2-pyrrolidin-1-ylaniline
0.58 g (2.3 mmol) of N-(5-nitro-2-pyrrolidin-1-ylphenyl)acetamide was admixed with 12 ml of conc. hydrochloric acid and heated to reflux for 1.5 hours. The solution was added to 100 ml of ice/water, neutralized with 2 N sodium hydroxide solution and admixed three times with ethyl acetate. After the mixture had been dried, the solvent was distilled off under reduced pressure to obtain the product quantitatively as a red solid which was used for the reactions a-d described in Example 1 without further purification (reaction with the acyl isocyanate, reduction with SnCl2 and acylation with Ac2O).

reactant | N-(5-nitro-2-pyrrolidin-1-ylphenyl)acetamide | 2.3 mmol, 0.58 g | [N+](=O)([O-])C=1C=CC(=C(C1)NC(C)=O)N1CCCC1 | C12H15N3O3
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Nitro-2-pyrrolidin-1-ylaniline | [N+](=O)([O-])C=1C=CC(=C(N)C1)N1CCCC1 | C10H13N3O2
